US08685974B2
To a solution of 2-chloro-4-methylpyrimidine (1 eq, 46.7 mmol) and ethyl 5-chlorothiophene-2-carboxylate (1.1 eq, 51.3 mmol) in anhydrous THF (50 mL) at 0° C., under N2 was added dropwise a solution of lithium bis(trimethylsilyl)amide (1 molar solution in hexanes, 2 eq, 93.3 mmol). The mixture was stirred 2 h at 5° C. Water was then added followed by 300 mL of dichloromethane. The organic layer was separated and the yellow precipitate was then filtered and dried to afford 10.7 g (84% yield) of 2-(2-chloropyrimidin-4-yl)-1-(5-chloro-2-thienyl)ethanone.

reactant | 2-chloro-4-methylpyrimidine | 46.7 mmol, 1 eq | ClC1=NC=CC(=N1)C | C5H5ClN2
reactant | ethyl 5-chlorothiophene-2-carboxylate | 51.3 mmol, 1.1 eq | ClC1=CC=C(S1)C(=O)OCC | C7H7ClO2S
reactant | lithium bis(trimethylsilyl)amide | 93.3 mmol, 1 molar, 2 eq | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | Water | O | H2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
product | 2-(2-chloropyrimidin-4-yl)-1-(5-chloro-2-thienyl)ethanone | 10.7 g, 84% yield | ClC1=NC=CC(=N1)CC(=O)C=1SC(=CC1)Cl | C10H6Cl2N2OS
